US08865732B2
To a solution of 5-(2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine (145 mg, 0.5 mmol) in chloroform (20 mL) at 0° C. was added a pre-cooled solution of bromine (40 μL, 0.7 mmol) in CHCl3 (5 mL). The reaction mixture was stirred for <5 min, concentrated in vacuo, and the resulting residue was azeotroped with CHCl3 (2×). Purification by flash chromatography (SiO2, 100:0-95:5 DCM-MeOH) provided 135 mg of 5-(5-bromo-2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine as a yellow solid: LCMS (m/z): 365.8 (MH+), tR=0.83 min.

reactant | 5-(2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine | 0.5 mmol, 145 mg | FC1=CC=C(C=C1)C=1OC=C(N1)C=1C=C(C(=NC1)N)OC | C15H12FN3O2
reactant | bromine | 0.7 mmol, 40 μL | BrBr | Br2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(5-bromo-2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine | 135 mg | BrC1=C(N=C(O1)C1=CC=C(C=C1)F)C=1C=C(C(=NC1)N)OC | C15H11BrFN3O2
